US04874775
N-(2,4-difluorophenyl)-N-[(pyridin-3-yl)(4fluorophenyl)methyl]-methanesulfonamide
A 4.7 g. portion of N-[(4-fluorophenyl)(pyridin-3-yl)methyl]-2,4-difluoroaniline was dissolved in 15 ml. of dichloromethane and 2.8 g. of methanesulfonic anhydride was added. The mixture was stirred at ambient temperature for 1 day, and it was then extracted with aqueous sodium bicarbonate, and dried. It was then applied to a silica gel column and eluted with dichloromethane and then with 9:1 dichloromethane:ethyl acetate. The product-containing fractions were combined, evaporated under vacuum and crystallized to obtain 1.8 g. of the desired product.

reactant | N-[(4-fluorophenyl)(pyridin-3-yl)methyl]-2,4-difluoroaniline | FC1=CC=C(C=C1)C(NC1=C(C=C(C=C1)F)F)C=1C=NC=CC1 | C18H13F3N2
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-difluorophenyl)-N-[(pyridin-3-yl)(4fluorophenyl)methyl]-methanesulfonamide | FC1=C(C=CC(=C1)F)N(S(=O)(=O)C)C(C1=CC=C(C=C1)F)C=1C=NC=CC1 | C19H15F3N2O2S
